US04093804
p-Chloromethylphenylglycine wherein the amino group is protected with tert-butoxycarbonyl is treated with isobutyl chloroformate in the presence of triethylamine. The thus obtained mixed anhydride is reacted with 3[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid pivalyloxymethyl ester at 0° C for about 3 hours. The resulting product is isolated, and the amine protecting group is removed by acid hydrolysis by treating the product with difluoroacetic acid for 5 minutes at room temperature to give 3-[(acetyloxy)methyl]-7[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid pivalyloxymethyl ester.

reactant | p-Chloromethylphenylglycine | ClCC1=CC=C(C=C1)NCC(=O)O | C9H10ClNO2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid pivalyloxymethyl ester | C(C(C)(C)C)(=O)OCOC(=O)C=1N2C(C(C2SCC1COC(C)=O)N)=O | C16H22N2O7S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-[(acetyloxy)methyl]-7[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid pivalyloxymethyl ester | C(C(C)(C)C)(=O)OCOC(=O)C=1N2C(C(C2SCC1COC(C)=O)NC(C(N)C1=CC=C(C=C1)CCl)=O)=O | C25H30ClN3O8S
